US08609731B2
N-{(S)-6-[(Isobutylmethylamino)methyl]-1,2,3,4-tetrahydronaphthalen-2-yl}-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide
To a mixture of N-((S)-6-formyl-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide (0.50 g), THF (5 ml), methanol (2 ml), isobutylmethylamine (0.23 g) and acetic acid (0.24 g) was added polymer-bound sodium cyanoborohydride (2.7 mmol), and the suspension was agitated at room temperature for 12 hours. The polymer was filtered off with suction and the filtrate was concentrated. The residue was purified by preparative HPLC. The product was thus obtained with the molecular weight of 450.63 (C28H38N2O3); MS (ESI): 451 (M+H+).

reactant | N-((S)-6-formyl-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | 0.50 g | C(=O)C=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C23H25NO4
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | isobutylmethylamine | 0.23 g | C(C(C)C)NC | C5H13N
reactant | sodium cyanoborohydride | 2.7 mmol | C(#N)[BH3-].[Na+]
solvent | acetic acid | 0.24 g | C(C)(=O)O | C2H4O2
solvent | methanol | 2 ml | CO | CH4O
product | N-{(S)-6-[(Isobutylmethylamino)methyl]-1,2,3,4-tetrahydronaphthalen-2-yl}-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | C(C(C)C)N(C)CC=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C28H38N2O3
